US07964643B2
3-Fluoro-4′-trifluoromethylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-302)
Using a method analogous to that described in Example 40, 4-bromo-2-fluorophenyl-sulfonic acid-(4-hydroxybutyl)-amide and 4-trifluoromethylphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 26.4, 29.5, 43.2, 62.2, 115.4 (d, J 25.4), 123.2, 125.7, 129.4, 130.8 (d, J 22.2), 131.6, 137.6, 141.5 (d, J 6.8) and 159.3 (d, J 253.9).

reactant | 4-bromo-2-fluorophenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)Br)F | C10H13BrFNO3S
reactant | 4-trifluoromethylphenyl boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 3-Fluoro-4′-trifluoromethylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)F | C17H17F4NO3S
